US09388140B2
To a stirred suspension of 4-bromo-2,6-dinitroaniline (110 g, 420 mmol) in HCl conc (2200 mL) at −20° C. was added tin(II)chloride dihydrate (568 g, 2519 mmol, 6 eq) in one portion under cooling. After stirring overnight ar rt, water (1000 mL) was added to the suspension, and the pH was adjusted to 10 using sodium hydroxide (50% aqueous solution). After extraction with ethyl acetate (3×2000 mL), the organic phase was washed with saturated sodium chloride solution, dried over sodium sulphate and evaporated in vaccuo to yield 81.5 g 5-bromobenzene-1,2,3-triamine (96.1%).

reactant | 4-bromo-2,6-dinitroaniline | 420 mmol, 110 g | BrC1=CC(=C(N)C(=C1)[N+](=O)[O-])[N+](=O)[O-] | C6H4BrN3O4
reactant | tin(II)chloride dihydrate | 2519 mmol, 568 g, 6 eq | O.O.[Sn](Cl)Cl
reactant | water | 1000 mL | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | HCl | 2200 mL | Cl | ClH
product | 5-bromobenzene-1,2,3-triamine | 81.5 g, 96.1% | BrC=1C=C(C(=C(C1)N)N)N | C6H8BrN3
